US06207665B1
To a solution of 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-((formyl)methyl)piperazine (0.31 g, 0.77 mmol) in anhydrous THF (20 mL) was added methyl magnesium bromide (0.26 mL, 0.77 mmol, 3.0 M solution in ether). The resultant mixture was stirred overnight at ambient temperature. At that time the mixture was poured into 5% aqueous NH4Cl solution and extracted with two portions of ether. The combined organic extracts were washed with brine, then dried over MgSO4, filtered and concentrated in vacuo to afford a yellow oil. Purification by flash column chromatography on silica gel afforded 0.29 g of 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-hydroxypropyl)piperazine, as a clear, colorless oil, which was converted to its hydrochloride salt; NMR (CDCl3) 7.6 (m, 2), 7.2 (m, 4), 6.9 (m, 2), 4.7 (m, 2), 4.4-3.0 (m, 10), 2.4-1.4 (m, 2), 1.3-1.0 (m, 3) ppm.

reactant | 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-((formyl)methyl)piperazine | 0.77 mmol, 0.31 g | FC1=CC=C(CN2C(CN(CC2)C(=O)COC2=CC=C(C=C2)Cl)CC=O)C=C1 | C21H22ClFN2O3
reactant | methyl magnesium bromide | 0.77 mmol, 3.0 M, 0.26 mL | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-hydroxypropyl)piperazine | 0.29 g | FC1=CC=C(CN2C(CN(CC2)C(=O)COC2=CC=C(C=C2)Cl)CC(C)O)C=C1 | C22H26ClFN2O3
